US07691877B2
(2-Amino-6-formyl-3-nitro-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester
(2-Amino-3-nitro-6-vinyl-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester (270 mgs/0.755 mmols) was dissolved in acetone (5 mls)/water (5 mls) and osmium tetroxide (2.5% wt in tBuOH) (0.10 mls/0.008 mmols) was added. Stirred for 5 mins to give brown solution then added sodium metaperiodate (500 mgs/3.47 mmols). Orange suspension stirred for 1 hour. Partitioned between EtOAc (100 mls) and sodium thiosulfate pentahydrate (20% wt in H2O) (50 mls). Organic collected, washed with brine, dried over Na2SO4, filtered and concentrated to a brown resin. Purification by column chromatography eluting with EtOAc gave the title compound (220 mgs) as a yellow oil.

reactant | (2-Amino-3-nitro-6-vinyl-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | 0.755 mmols, 270 mgs | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)C=C)N)[N+](=O)[O-])=O | C17H19N5O4
reactant | sodium metaperiodate | 3.47 mmols, 500 mgs | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 5 mls | CC(=O)C | C3H6O
solvent | water | 5 mls | O | H2O
catalyst | osmium tetroxide | 0.008 mmols, 0.10 mls | [Os](=O)(=O)(=O)=O
product | (2-Amino-6-formyl-3-nitro-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | 220 mgs | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)C=O)N)[N+](=O)[O-])=O | C16H17N5O5
